US07947691B2
1-(3-Benzo[1,3]dioxol-5-yl-benzyl)-3-hydroxy-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione
1-(2-Bromo-benzyl)-3-hydroxy-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione was treated with 3,4-methylenedioxyphenylboronic acid according to general procedure C to provide the title compound as a yellow solid. 1H NMR (d6-DMSO, 300 MHz) 5.61 (s, 2H); 6.05 (s, 2H); 6.98 (d, J=8 Hz, 1H); 7.10 (dd, J1=8 Hz, J2=2 Hz, 1H); 7.18-7.21 (m, 2H); 7.35 (dd, J=8 Hz, 2H); 7.49 (br d, J=8 Hz, 1H); 7.57-7.62 (m, 2H); 7.80 (d, J=8 Hz, 1H); 7.87 (d, J=8 Hz, 1H); Ret. time=2.95 min., m/z=429.0.

reactant | 1-(2-Bromo-benzyl)-3-hydroxy-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | BrC1=C(CN2C(N(C(C3=C2C2=C(O3)C=CC=C2)=O)O)=O)C=CC=C1 | C17H11BrN2O4
reactant | 3,4-methylenedioxyphenylboronic acid | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
product | 1-(3-Benzo[1,3]dioxol-5-yl-benzyl)-3-hydroxy-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | O1COC2=C1C=CC(=C2)C=2C=C(CN1C(N(C(C3=C1C1=C(O3)C=CC=C1)=O)O)=O)C=CC2 | C24H16N2O6
